US09340538B2
4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(furan-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(furan-2-yl)-1,4-dihydropyrimidine-5-carboxylate (0.74 g, 1.53 mmol) (The compound was synthesized according to the procedure as described in WO2010069147) was reacted with morpholine-3-carboxylic acid (0.2 g, 1.53 mmol) according to the procedure as described in Example 28 to give the title compound as a yellow solid (0.31 g, 38%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(furan-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 1.53 mmol, 0.74 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C=1OC=CC1 | C18H15Br2FN2O3
reactant | morpholine-3-carboxylic acid | 1.53 mmol, 0.2 g | N1C(COCC1)C(=O)O | C5H9NO3
product | 4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(furan-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid | 0.31 g, 38% | BrC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C=1OC=CC1)CN1C(COCC1)C(=O)O)C(=O)OCC | C23H23BrFN3O6
